US07256288B2
4-Amino-3-iodobenzoic acid
A solution of 3.00 g (10.8 mmol) of methyl 4-amino-3-iodobenzoate and 1.30 g (54.1 mmol) of lithium hydroxide in 150 ml of a dioxane/water mixture (1:1) was stirred at room temperature for 6 h. The dioxane was distilled off in vacuo, and the remaining aqueous phase was adjusted to pH 5 with 1 M hydrochloric acid. The precipitate was filtered off with suction and washed with water. 2.80 g (98%) of the title compound were obtained as a solid.

reactant | methyl 4-amino-3-iodobenzoate | 10.8 mmol, 3.00 g | NC1=C(C=C(C(=O)OC)C=C1)I | C8H8INO2
reactant | lithium hydroxide | 54.1 mmol, 1.30 g | [OH-].[Li+]
solvent | dioxane water | 150 ml | O1CCOCC1.O
product | 4-Amino-3-iodobenzoic acid | 2.80 g, 98% | NC1=C(C=C(C(=O)O)C=C1)I | C7H6INO2
